US04209625
To a mixture of 15.0 g of 1-(2-aminophenyl)-1'-methylspiro-[indoline-3,4'-piperidine]dihydrochloride, Example 16, in 75 ml of dimethylformamide at 90° C. under nitrogen is added 8.6 g of sodium methoxide. Following this addition the reaction temperature is increased to 110°-115° C. and maintained at this temperature for 40 minutes. The resulting dark brown mixture is permitted to cool to 90° C. and then poured onto 800 ml of ice-water. The mixture is filtered and the filter cake is washed with water and then dissolved in chloroform. The chloroform solution is successively washed with brine, dried and concentrated leaving a red colored glass. The glass is dissolved in ether, where it is converted to its hydrochloric acid salt which is collected by filtration and then washed with ether and finally dried. The salt is recrystallized from a methyl alcohol-ether mixture to provide the product, mp 287.5° C., dec of 1-(2-formamidophenyl)-1'-methylspiro[indoline-3,4'-piperidine]hydrochloride.

reactant | 1-(2-aminophenyl)-1'-methylspiro-[indoline-3,4'-piperidine]dihydrochloride | 15.0 g | Cl.Cl.NC1=C(C=CC=C1)N1CC2(CCN(CC2)C)C2=CC=CC=C12
reactant | sodium methoxide | 8.6 g | C[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 1-(2-formamidophenyl)-1'-methylspiro[indoline-3,4'-piperidine]hydrochloride | Cl.C(=O)NC1=C(C=CC=C1)N1CC2(CCN(CC2)C)C2=CC=CC=C12 | InChI=1S/C20H23N3O.ClH/c1-22-12-10-20(11-13-22)14-23(18-8-4-2-6-16(18)20)19-9-5-3-7-17(19)21-15-24;/h2-9,15H,10-14H2,1H3,(H,21,24);1H
